* R04D0 - P24 first interval on the shared Fig.3 flying-capacitor ladder
* PURPOSE: replace the R04C independent Vin/nP phase rail with the P24 Fig.3
* shared 48-V ladder, but execute only the first interval explicitly described
* by P24: QH1 and adjacent-phase QS2 conduct.
*
* P24-EXPLICIT / DERIVED BOUNDARIES
* Vin=48 V, Vo=1 V, nP=4, nM=1 interface, fsw=5 MHz.
* Eq.(1)/(3): D=1/12 and Ton=16.6667 ns.
* Eq.(4) selected recalculation: Lphase=1.46667 nH.
* Sec.II-B: QH1+QS2 conduct and iL1 rises through Vin-QH1-C1-L1-output.
*
* PERIODIC-STATE INITIAL CONDITION, NOT A BALANCING CLAIM
* C1/C2/C3 start at 36/24/12 V. They are capacitor IC values, not hidden
* voltage sources. This run ends after one P24 first interval and therefore
* tests only whether that proposed state produces the expected local current
* slope. It cannot establish charge balance, self-balancing or startup.
*
* NUMERICAL ENABLER
* Cfly=53.8 uF comes from the separately labelled EPE2019 component example,
* because P24/P25 do not publish C1-C3 values. It is not fitted in this run and
* no conclusion about the required P24 capacitance is allowed.
* R04D0-D starts directly inside the P24 first interval. QH1 and QS2 are DC-ON
* for exactly the simulated interval; there is no invented pre-interval all-OFF
* state. Only the two-phase subnetwork participating in this local causal test
* is retained. This is a state-equation test, not a full Fig.3 reproduction.
*
* OMITTED / BLOCKED
* Remaining low-side commands are unspecified by P24 in this paragraph and
* are OFF. No Coss, added CH/CL, dead time, ZCD, negative-current interval,
* periodic reset, startup, output ripple, loss or ZVS claim is included.

.param VIN=48 NP=4 NM=1 VO=1 FSW=5Meg T={1/FSW}
.param D={NP*VO/VIN} TON={D*T}
.param LPHASE=1.4666667n CFLY=53.8u

VIN_SRC vin 0 {VIN}
VOUT out 0 {VO}

VGH1 gh1 0 5
VGL2 gl2 0 5
VZERO gh2 0 0

SH1 vin a1 gh1 0 SWI
CF1 a1 x1 {CFLY} IC=36
L1 x1 out {LPHASE} Rser=1u IC=0

SH2 a1 a2 gh2 0 SWI
CF2 a2 x2 {CFLY} IC=24
SL2 x2 0 gl2 0 SWI
L2 x2 out {LPHASE} Rser=1u IC=0

.model SWI SW(Ron=1u Roff=1T Vt=2.5 Vh=0)

.meas tran IL1_AT_TON FIND I(L1) AT {TON-20p}
.meas tran IL1_MAX MAX I(L1) FROM 0 TO {TON}
.meas tran IL2_AT_TON FIND I(L2) AT {TON-20p}
.meas tran VC1_START FIND V(a1,x1) AT 20p
.meas tran VC1_END FIND V(a1,x1) AT {TON-20p}
.meas tran VC2_START FIND V(a2,x2) AT 20p
.meas tran VC2_END FIND V(a2,x2) AT {TON-20p}
.meas tran Q_C1_INTV INTEG I(CF1) FROM 20p TO {TON-20p}
.meas tran Q_C2_INTV INTEG I(CF2) FROM 20p TO {TON-20p}
.meas tran NP_EXPLICIT PARAM {NP}
.meas tran NM_EXPLICIT PARAM {NM}
.meas tran TON_EXPLICIT PARAM {TON}

.options reltol=1e-7 abstol=1e-10 chgtol=1e-16
.save V(a1,x1) V(a2,x2) V(x1) V(x2) I(CF1) I(CF2) I(L1) I(L2) V(gh1) V(gl2)
.tran 0 {TON} 0 2p UIC
.end
